Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath, chest pain (sent to ED by PCP for new LBBB)
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ male with HTN and current tobacco use, no cardiac history, 
who was sent from his PCP's office for shortness of breath, 
chest pain and new left bundle branch block on EKG.  This 
morning, he was walking at ___ when he felt the sudden 
onset of shortness of breath, associated with chest heaviness.  
He thought it was the start of a 'cold' but did not have 
rhinorrhea or cough.  He reports some improvement of SOB with 
rest, but did not completely resolve, so he presented to his 
PCP.  At the PCP's office, he developed some substernal chest 
pain, ___, associated with some jaw numbness.  He went to his 
PCP, who performed an EKG and was found to have a new LBBB (a 
change since ___.  His PCP sent him to the ___ ED.  Of 
note, patient had similar symptoms ___ years ago, had cardiac 
workup at ___ and was told he has no cardiac disease.
.
In the ED, initial vitals were T 98.8, HR 78, BP 152/102, RR 18, 
SaO2 100% 2L.  He had already received ASA, NTGx2 with little/no 
relief but he was given Morphine 8mg IV, which did relieve his 
pain.  He received Zofran as well for nausea.  His first set of 
biomarkers were negative.  ___ attending (___) 
was contacted and the patient was started on Heparin drip.
.
On transfer, his vital signs were: HR 73, BP 140/93, O2 sat 
96%RA.
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, long periods of 
immobility, clotting disorder, bleeding at the time of surgery, 
myalgias, cough, hemoptysis, black stools or red stools. He 
denies recent fevers, chills or rigors. He denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.  
.  
Cardiac review of systems is notable for paroxysmal nocturnal 
dyspnea, ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
- Hypertension
- h/o nephrolithiasis
 
Social History:
___
Family History:
Grandfather passed away from MI in his ___.
No other family history of early MI.  No FH of arrhythmia, 
cardiomyopathies, or sudden cardiac death; otherwise 
non-contributory.  
 
Physical Exam:
VS: T=98.4 BP=128-155/85-106 ___ RR=18 O2sat= 97%RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with no JVP elevation.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, loud S2. No m/r. No thrills, lifts. No S3 
or S4.  Chest not tender on palpation.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Rapid 
resp rate, resp were unlabored, no accessory muscle use. CTAB, 
no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
Labs:
___ 12:00PM WBC-7.4 RBC-4.79 Hgb-15.9 Hct-43.8 MCV-92 
MCH-33.1* MCHC-36.2* RDW-13.2 Plt ___ Neuts-66.4 Lymphs-25.9 
Monos-5.4 Eos-1.9 Baso-0.5
___ 04:25AM WBC-6.9 RBC-4.74 Hgb-15.5 Hct-44.8 MCV-94 
MCH-32.7* MCHC-34.6 RDW-12.8 Plt ___
___ 12:00PM Glucose-77 UreaN-10 Creat-0.8 Na-139 K-3.9 
Cl-105 HCO3-27 AnGap-11 Calcium-8.8 Phos-3.2 Mg-2.1 Cholest-117
___ 04:25AM Glucose-99 UreaN-14 Creat-1.1 Na-138 K-4.5 
Cl-101 HCO3-30 AnGap-12 Calcium-8.9 Phos-3.9 Mg-2.1
___ 12:00PM CK-MB-2
___ 12:00PM cTropnT-<0.01
___ 12:36AM CK-MB-1 cTropnT-<0.01
___ 12:00PM %HbA1c-5.3 eAG-105

___ 12:00PM Triglyc-120 HDL-38 CHOL/HD-3.1 LDLcalc-55

___ 12:00PM TSH-1.2

CXR ___:
FINDINGS: PA and lateral views of the chest were obtained. The 
lungs appear clear bilaterally. The heart is at the upper limits 
of normal in size. No pleural effusion or pneumothorax is seen. 
Osseous structures are intact. No free air below the right 
hemidiaphragm is seen. 
IMPRESSION: Mild/borderline cardiac enlargement. Otherwise 
unremarkable. 

ECHOCARDIOGRAM ___:
Conclusions  
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. There 
is mild to moderate global left ventricular hypokinesis (LVEF = 
40 %) with mild regional variation. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic regurgitation. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion.
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with cardiac risk factors being 
tobacco use and HTN, who presents with sudden onset of shortness 
of breath with exertion, associated with chest pain.  EKG 
revealed new LBBB.  Troponin negx2 (12 hours) and EKG had no 
evidence of ACS.  ECHO revealed global hypokinesia and decreased 
LVEF~40%.  LV dysfunction possibly secondary to viral cause, 
unlikely ischemic given global hypokinesis.
.  
# Shorness of Breath/Chest Pain- Patient presents with sudden 
onset of shortness of breath with atypical chest pain.  Given 
his risk factors and newly developed LBBB, this is concerning 
for CAD.  However, patient does not meet Sgarbossa's criteria 
given his STE were all discordant with QRS and <5mm (Sgarbossa- 
ST segment elevation of 1 mm or more that was concordant as the 
QRS complex in any lead — score 5. ST segment depression of 1 mm 
or more in any lead from V1 to V3 — score 3. ST segment 
elevation of 5 mm or more that was discordant with the QRS 
complex— score 2.)  LBBB can be a result conduction system 
degeneration with aging or hypertensive cardiomyopathy. In 
addition, PE is also on the differential given the sudden onset 
of shortness of breath, and ongoing tachypnea, although patient 
has no history of DVT, PE, family clotting disorder, or recent 
periods of immobility.  COPD/Pulm HTN also on the differential 
with SOB and chest pain on exertion.  ECHO revealed global 
hypokinesia and decreased LVEF~40%.  Given global hypokinesis 
with no obvious regional wall motion abnormalities, ischemic 
cause is unlikely.  Ddx of decreased LVEF includes viral 
etiology and HTN cardiomyopathy (he has no history of EtOH 
abuse).  Viral cause is most likely, especially given that the 
patient feels that he has been "coming down with something."  We 
started the patient on ASA, beta blocker, statin and continued 
home valsartan.  Lipid panel, TSH, and lyme titer were obtained 
as part of work up.  Patient instructed to follow up as 
outpatient repeat echocardiogram and possible stress test.  
Patient discharged on ASA 81mg (new med), toprol 25mg (new med) 
and home dose Diovan/HCTZ.
.  
# Hypertension- Initial SBP 120-150s (120s after night 
metoprolol), with HR 60-80.  Recently increased Diovan/HCTZ 
dose.  We continued his Diovan/HCTZ, and added 12.5mg metoprolol 
BID for further BP and HR control.  Patient discharged on home 
dose Diovan/HCTZ and metoprolol succinate 25mg daily. 
.  
# Tobacco Use- Smoking cessation counseling.

***Labs pending at the time of discharge: Lyme titers.
 
Medications on Admission:
- Diovan HCTZ 160 mg-25 mg daily
 
*ALLERGIES: PCN- tongue swelling
 
Discharge Medications:
1. valsartan-hydrochlorothiazide 160-25 mg Tablet Sig: One (1) 
Tablet PO once a day.  
2. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
3. metoprolol succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Cardiomyopathy

SECONDARY:
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your 
hospitalization.  You were admitted to the hospital because you 
had chest discomfort and new EKG changes.  We made sure you were 
not having a heart attack.  You also had an echocardiogram 
(ultrasound of the heart) which was abnormal: your heart is not 
pumping as strongly as it should be.  This may be a result of a 
viral illness, which should resolve spontaneoudsly.  In case it 
is because of lack of blood supply to the heart, you should 
undergo a repeat echo in a few weeks to ensure resolution beause 
if the abnormality is still present you may need a stress test 
or other workup.
.
We made the following changes to your medications:
1. ADD metoprolol succinate 25mg daily
2. ADD aspirin 81mg daily (baby aspirin)
 
Followup Instructions:
___